US06140512
Under an argon atmosphere, a solution of (±)-6-(ethoxycarbonylmethyl)-1,4-dioxaspiro[4.5]decane (1.00 g, 4.39 mmol) in diethyl ether (22 ml) was cooled to 0° C. Lithium aluminium hydride (333 mg, 8.77 mmol) was added and the mixture was stirred at room temperature for 3 h. The mixture was cooled to 0° C., quenched with ethyl acetate (10 ml) and 2 M sodium hydroxide solution (50 ml). The mixture was extracted with chloroform (3×50 ml) and the combined organic extracts were dried over magnesium sulphate. The solvent was evaporated under reduced pressure to give the crude product which was purified using flash column chromatography with hexane-ethyl acetate (3:7) to give (±)-6-(2'-hydroxyethyl)-1,4-dioxaspiro[4.5]decane (767 mg, 94% yield) as a colourless oil. Rf 0.30 (hexane-ethyl acetate, 3:7).

reactant | (±)-6-(ethoxycarbonylmethyl)-1,4-dioxaspiro[4.5]decane | 4.39 mmol, 1.00 g | C(C)OC(=O)CC1C2(OCCO2)CCCC1 | C12H20O4
reactant | Lithium aluminium hydride | 8.77 mmol, 333 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 22 ml | C(C)OCC | C4H10O
product | (±)-6-(2'-hydroxyethyl)-1,4-dioxaspiro[4.5]decane | 767 mg, 94% yield | OCCC1C2(OCCO2)CCCC1 | C10H18O3
